US06531478B2
To a solution of 2-cyano-4′nitroacetophenone in ethanol (100 mL) at room temperature was added tolylhydrazine (6.44 g, 0.04 mol) and triethylamine (15.4 mL, 0.11 mol). The resulting solution was heated to reflux and maintained at reflux for 1 h. The solution was cooled to room temperature at which time EtOAc (500 mL) was added. The organic solution was washed with brine (2×500 mL), dried over Na2SO4 and concentrated by rotary evaporation. The residue was purified by column chromatography on silica gel eluting with 1:1 hexane/EtOAc to yield 1-(4-tolyl)-3-(4-nitrophenyl)-5-aminopyrazole as a solid.

reactant | 2-cyano-4′nitroacetophenone | C(#N)CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H6N2O3
reactant | tolylhydrazine | 0.04 mol, 6.44 g | C1(=C(C=CC=C1)NN)C | C7H10N2
reactant | triethylamine | 0.11 mol, 15.4 mL | C(C)N(CC)CC | C6H15N
reactant | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(4-tolyl)-3-(4-nitrophenyl)-5-aminopyrazole | C1(=CC=C(C=C1)N1N=C(C=C1N)C1=CC=C(C=C1)[N+](=O)[O-])C | C16H14N4O2
